US07167353B2
A mixed solution prepared by mixing together 100 ml of diethylamine (Kanto Chemical Co., Inc.) and 85 ml of 2-methoxyethyl chloride (Kanto Chemical) was placed in an autoclave and reacted at 120° C. for 12 hours. The internal pressure during the reaction was 0.283 MPa (2.9 kgf/cm2). This yielded a mixture of deposited crystals and reaction solution to which was added, following the 12 hours of reaction, 200 ml of an aqueous solution prepared by dissolving 40 g of sodium hydroxide (Katayama Chemical Inc.) in 200 ml of water. Each of the two divided organic phases that formed as a result was separated off with a separatory funnel and subjected twice to extraction with 250 ml of tetrahydrofuran (Wako Pure Chemical Industries, Ltd.). The separated organic phases were then combined and washed with a saturated saline solution, following which potassium carbonate (Wako Pure Chemical Industries) was added to remove water and vacuum filtration was carried out. The solvent in the resulting organic phase was distilled off in a rotary evaporator, after which the residue was subjected to normal-pressure distillation, yielding 21 g of 2-methoxyethyldiethylamine.

reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
reactant | 2-methoxyethyl chloride | 85 ml | COCCCl | C3H7ClO
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-methoxyethyldiethylamine | 21 g | COCCN(CC)CC | C7H17NO
